US04487927
To a solution of benzhydryl 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.0 g) in a mixture of tetrahydrofuran (10 ml) and water (10 ml) were added thiourea (0.5 g) and sodium acetate (1.34 g). The mixture was stirred at 40° C. for 4 hours. The resultant solution was extracted with ethyl acetate (100 ml), and the extract was washed with a saturated aqueous sodium chloride twice. After the resultant solution was dried over magnesium sulfate, the solvent was removed by distillation under reduced pressure to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.0 g).

reactant | benzhydryl 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylate | 2.0 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC)=O | C29H26ClN3O8S
reactant | thiourea | 0.5 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.34 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC | C30H27N5O7S2
